US05969146
17.6. 3-[(Ethoxycarbonyl)amino]-1-methyl-6-(phenylmethoxy)-1H-indole-2-carboxylic acid
A suspension of 28.1 g (0.0708 mol) of ethyl 3-[(ethoxycarbonyl)amino]-1-methyl-6-(phenylmethoxy)-1H-indole-2-carboxylate in 170 ml of 96° ethanol is brought to reflux. 64 ml of a 10% ethanolic potassium hydroxide solution and 50 ml of tetrahydrofuran are added to this mixture. The suspension is left at reflux for 150 min, is then concentrated under reduced pressure, diluted with a mixture of water and ice and acidified with 6N hydrochloric acid. The product is then extracted with a mixture of dichloromethane and tetrahydrofuran, the organic phase is washed with water and dried over sodium sulphate and the solvent is evaporated under reduced pressure. The residue is triturated in diisopropyl ether and 24.8 g of product are recovered.

reactant | ethyl 3-[(ethoxycarbonyl)amino]-1-methyl-6-(phenylmethoxy)-1H-indole-2-carboxylate | 0.0708 mol, 28.1 g | C(C)OC(=O)NC1=C(N(C2=CC(=CC=C12)OCC1=CC=CC=C1)C)C(=O)OCC | C22H24N2O5
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[(Ethoxycarbonyl)amino]-1-methyl-6-(phenylmethoxy)-1H-indole-2-carboxylic acid | C(C)OC(=O)NC1=C(N(C2=CC(=CC=C12)OCC1=CC=CC=C1)C)C(=O)O | C20H20N2O5
